US06169186A
5-Bromopentylmaleimide:
12 g (0.124 mole) maleimide were dissolved in 60 ml ethyl acetate and 22.4 g (0.33 mole) distilled furane were added over 10 minutes, whereupon the mixture became slightly warm, and the batch was stirred for 25 hours at room temperature. The precipitate was subsequently filtered off under suction and was dried under vacuum at room temperature. Yield: 10.5 g=51.3% theoretical. The substance was pure as determined by GC and its IR, NMR and mass spectra corresponded to the desired 7-oxabicycloheptene-1,2-dicarboxylic acid imide. 10 g (0.06 mole) of this imide were is dissolved in 300 ml distilled DMF, an amount of KI which covered the tip of a spatula was added, and 8.1 g (0.072 mole) K-tert-butylate were added under N2. After 2 hours 69.6 g (0.303 g) 1,5-dibromopentane in 100 ml DMF were added drop-wise over 7 hours with stirring and at room temperature. The batch was subsequently stirred for 50 hours at room temperature. The DMF solution was filtered from the precipitated KBr and the DMF was substantially removed by distillation in a rotary evaporator under vacuum. The liquid residue was distilled in a microdistillation apparatus under a vacuum of 1×10−3 mbar, whereupon at a boiling temperature of 50-55° C. it was solely the excess 1,5-dibromopentane which distilled over. The temperature of the oil bath was then slowly raised to 140° C. After a preliminary flow of 2.3 g, 5.5 g product distilled over at a boiling temperature of 113° C./3×103 mbar. This product was pure as determined by G C, and its IR, NMR and mass spectra corresponded to the desired 5-bromopentylmaleimide. Yield: 5.5 g=37.4%.

reactant | maleimide | 0.124 mole, 12 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | 1,5-dibromopentane | 69.6 g | BrCCCCCBr | C5H10Br2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-Bromopentylmaleimide | BrCCCCCC=1C(=O)NC(C1)=O | C9H12BrNO2
